US05380734
To a suspension of 31.5 g (0.2 mole) of 2-chloro-3-pyridinecarboxylic acid in 75 mL of xylene was added 18.6 g (0.2 mole) of aniline, and the reaction mixture was heated at 190° C. (oil bath) for 45 min; then cooled. The xylene was filtered, and the reaction melt that had formed was crushed and partitioned between 100 mL of aqueous NaHCO3 (pH 8) and CH2Cl2 (150 mL). The solid that remained suspended in the two-phase system was filtered and discarded. The filtrate was concentrated to 200 mL, and the solid that precipitated from the two-phase system was filtered to give 7.6 g (13%) of N-phenyl-2-(phenylamino)-3-pyridinecarboxamide. Acetic acid was added to the filtrate to acidify the aqueous layer to pH 6 and the CH2Cl2 layer was separated. The aqueous solution was extracted with CH2Cl2 and the combined extracts were concentrated to 100 mL; the solid that precipitated was filtered and washed sequentially with water and CH2Cl2 to give 15.6 g of the product. An additional 5.3 g of the product was obtained from the filtrate for a total yield of 20.9 g (49%). The combined product was triturated with CH2Cl2 and then filtered to give 19.6 (46%) of the product as a yellow solid; mp 152°-155° C.; TLC (C6H12 -EtAc; 4:1 and EtAc-MeOH-NH4OH, 16:3:1) showed a single component. MS (EI) m/e (relative intensity): 214 (M+, 100), 213 (94), 195 (70), 169 (45), 168 (70), 167 (22), 77 (37), 51 (26).

reactant | 2-chloro-3-pyridinecarboxylic acid | 0.2 mole, 31.5 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | aniline | 0.2 mole, 18.6 g | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 75 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-phenyl-2-(phenylamino)-3-pyridinecarboxamide | 7.6 g, 13% | C1(=CC=CC=C1)NC(=O)C=1C(=NC=CC1)NC1=CC=CC=C1 | C18H15N3O
